US07662845B2
a) (4-Phenylphenethyl)-N-methylamine
4-Phenylphenethyl amine, 0.48 g (2.4 mmol), was added to an excess of methyl formate (5 mL) and dichloromethane (5 mL) was added to improve solubility. The heterogeneous reaction mixture was refluxed to give a solution within 20 hours. NMR analysis of a sample showed almost complete conversion to N-formyl amine. The reaction mixture was evaporated to give 0.47 g (87%). The formyl compound, 0.47 g (2.09 mmol), was dissolved in THF and 2.1 mL of 1.0 M lithium aluminium hydride (2.1 mmol) in THF was added. TLC analysis after 20 hours showed only starting material and 2 mL (2 mmol) of lithium aluminium hydride solution was added. Analysis after 1 hour showed starting material and the mixture was heated to reflux. After 1.5 hours a precipitate was formed, the starting material consumed and tetrahydrofuran (15 ml) was added. The mixture was quenched by successive addition of water (0.15 g), 15% aqueous sodium hydroxide (0.15 g) and water (0.45 g). The mixture was filtered and evaporated to give 0.33 g crude product. The crude product was purified by silica gel chromatography (100 mL) using dichloromethane/methanol/concentrated ammonia (90+10+1) as eluant. Evaporation of pure fractions gave 78 mg (18%) of the sub-titled compound.

reactant | 4-Phenylphenethyl amine | C1(=CC=CC=C1)C1=CC=C(CCN)C=C1 | C14H15N
reactant | methyl formate | 5 mL | C(=O)OC | C2H4O2
reactant | N-formyl amine | C(=O)N | CH3NO
reactant | lithium aluminium hydride | 2.1 mmol, 1.0 M, 2.1 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminium hydride | 2 mmol, 2 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | C1CCOC1 | C4H8O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (4-Phenylphenethyl)-N-methylamine | 78 mg, 18% | C1(=CC=CC=C1)C1=CC=C(CCNC)C=C1 | C15H17N
